data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
784,848,[CH3:13][c:14]1[nH+:15][c-:16]([CH3:17])[c:18](=[O:19])[o:20]1.[CH3:1][O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[O:8][CH3:9])=[C:10]([Cl:11])[Cl:12]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]([Cl:11])([Cl:12])[C:14]2([CH3:13])[NH:15][C:16]1([CH3:17])[C:18](=[O:19])[O:20]2,water,298.15,18.78537556758616,0.5518224252456856
2187,2425,[CH3:18][O:19][C:20](=[O:21])[c:22]1[o:23][c:24](=[O:25])[c-:26]([C:27]#[N:28])[o+:29]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]#[C:10][C:11]([Cl:12])([Cl:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]2=[C:10]([C:11]([Cl:12])([Cl:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:26]1([C:27]#[N:28])[C:24](=[O:25])[O:23][C:22]2([C:20]([O:19][CH3:18])=[O:21])[O:29]1,water,298.15,15.115034776254086,-28.855462617688307
4845,5527,[CH3:10][O:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[C:23](=[O:24])[O:25][CH3:26].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([O:11][CH3:10])=[O:13])([C:23](=[O:24])[O:25][CH3:26])[N:15]=[C:16]1[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,21.8894079454802,-25.82297833038648
899,972,[CH3:1][C:2]#[C:3][C:4](=[O:5])[NH:6][CH3:7].[CH3:8][C-:9]([CH3:10])[NH+:11]=[C:12]([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1>>[CH3:1][C:2]1=[C:3]([C:4](=[O:5])[NH:6][CH3:7])[C:9]([CH3:8])([CH3:10])[NH:11][C:12]1([c:13]1[cH:14][cH:15][cH:16][cH:17][cH:18]1)[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,16.80951295817405,-45.57613141102981
2576,2857,[CH3:13][O:14][C:15](=[O:16])[C:17](=[O+:18][C-:19]([C:20](=[O:21])[O:22][CH3:23])[C:24](=[O:25])[O:26][CH3:27])[C:28](=[O:29])[O:30][CH3:31].[CH3:1][C:2](=[O:3])[C:4]([Br:5])=[C:6]([C:7]([CH3:8])=[O:9])[C:10]([CH3:11])=[O:12]>>[CH3:1][C:2](=[O:3])[C:4]1([Br:5])[C:6]([C:7]([CH3:8])=[O:9])([C:10]([CH3:11])=[O:12])[C:19]([C:20](=[O:21])[O:22][CH3:23])([C:24](=[O:25])[O:26][CH3:27])[O:18][C:17]1([C:15]([O:14][CH3:13])=[O:16])[C:28](=[O:29])[O:30][CH3:31],water,298.15,24.198017115244088,-26.737239623964246
3944,4509,[CH3:9][O:10][C:11](=[O:12])[c:13]1[o:14][c:15](=[O:16])[c-:17]([C:18]#[N:19])[n+:20]1[CH3:21].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[C:17]2([C:18]#[N:19])[C:15](=[O:16])[O:14][C:13]1([C:11]([O:10][CH3:9])=[O:12])[N:20]2[CH3:21],water,298.15,26.29636557584321,1.601716818708128
1964,2177,[CH3:12][N+:13](=[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[C-:27]([C:28]#[N:29])[C:30]#[N:31].[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[CH:6]([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[N:13]([CH3:12])[C:27]2([C:28]#[N:29])[C:30]#[N:31],water,298.15,37.58403908875426,-10.595687542135291
2236,2481,[CH3:12][NH:13][C:14](=[O:15])[C:16]([C:17]#[N:18])=[N+:19]([CH3:20])[C-:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([C:17]#[N:18])[N:19]([CH3:20])[C:21]3([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1,water,298.15,31.536653259381303,-31.379885553018354
3938,4503,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][O:10][C:11](=[O:12])[C:13]#[N+:14][C-:15]([C:16]([CH3:17])=[O:18])[C:19]([CH3:20])=[O:21]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:15]([C:16]([CH3:17])=[O:18])([C:19]([CH3:20])=[O:21])[N:14]=[C:13]2[C:11]([O:10][CH3:9])=[O:12],water,298.15,11.826172971685644,-30.26683972923888
1163,1264,[CH3:17][NH:18][C:19](=[O:20])[C:21]#[N+:22][N-:23][C:24]#[N:25].[CH3:1][O:2][C:3](=[O:4])/[C:5]([C:6]([CH3:7])=[O:8])=[C:9](\[C:10]([CH3:11])=[O:12])[C:13](=[O:14])[O:15][CH3:16]>>[CH3:1][O:2][C:3](=[O:4])[C@@:5]1([C:6]([CH3:7])=[O:8])[C@:9]([C:10]([CH3:11])=[O:12])([C:13](=[O:14])[O:15][CH3:16])[N:23]([C:24]#[N:25])[N:22]=[C:21]1[C:19]([NH:18][CH3:17])=[O:20],water,298.15,20.365810406108924,-30.463494137279767
281,305,[CH3:7][O:8][C:9](=[O:10])[N-:11][O+:12]=[C:13]([C:14]([CH3:15])=[O:16])[C:17]([CH3:18])=[O:19].[CH:1]#[C:2][C:3](=[O:4])[O:5][CH3:6]>>[CH:1]1=[C:2]([C:3](=[O:4])[O:5][CH3:6])[C:13]([C:14]([CH3:15])=[O:16])([C:17]([CH3:18])=[O:19])[O:12][N:11]1[C:9]([O:8][CH3:7])=[O:10],water,298.15,11.85284424187405,-69.07893306998122
